US04285942
1-(Dimethylamino-propoxyimino)cyclododecane
Starting from 18.23 g. (0.1 moles) of cyclododecanone and 21.0 g. (0.11 moles) of dimethylaminopropoxyamine dihydrochloride the title compound is prepared as in Example 13. Yield: 20.9 g. (74%). Hydrogen fumarate, m.p.: 117°-118° C.

reactant | cyclododecanone | 0.1 moles | C1(CCCCCCCCCCC1)=O | C12H22O
reactant | dimethylaminopropoxyamine dihydrochloride | 0.11 moles | Cl.Cl.CN(C)CCCON
reactant | Hydrogen fumarate | C(\C=C\C(=O)[O-])(=O)O
product | 1-(Dimethylamino-propoxyimino)cyclododecane | CN(C)CCCON=C1CCCCCCCCCCC1 | C17H34N2O
